US07897766B2
N-[(4s)-1-Azatricyclo[3.3.1.13,7]dec-4-yl]-2-ethoxybenzamide
Prepared from (4s)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine and 2-ethoxybenzoic acid (Aldrich) according to method B; 1H NMR (500 MHz, methanol-d4) δ 1.53 (t, J=7 Hz, 3H), 1.94 (s, 1H), 2.02 (d, 2H), 2.11 (d, 1H), 2.20 (d, J=14 Hz, 2H), 2.32 (s, 2H), 3.48 (s, 2H), 3.59 (s, 4H), 4.28 (q, J=7 Hz, 2H), 4.47 (s, 1H), 7.06-7.10 (m, 1H), 7.17 (d, J=8 Hz, 1H), 7.48-7.53 (m, 1H), 7.96 (dd, J=8, 2 Hz, 1H); MS (APCI/NH3) m/z 301 (M+H)+.

reactant | (4s)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine | N12CC3[C@@H](C(CC(C1)C3)C2)N | C9H16N2
reactant | 2-ethoxybenzoic acid | C(C)OC1=C(C(=O)O)C=CC=C1 | C9H10O3
reactant | NH3 | N | H3N
product | N-[(4s)-1-Azatricyclo[3.3.1.13,7]dec-4-yl]-2-ethoxybenzamide | N12CC3[C@@H](C(CC(C1)C3)C2)NC(C2=C(C=CC=C2)OCC)=O | C18H24N2O2
